US03998873
Moore, J.Am.Chem.Soc. (84) 3788 discloses the hydrogenation of 1,2-cyclodecadiene using a 10% Pd on charcoal catalyst to produce 17-32% trans-cyclodecene.

reactant | 1,2-cyclodecadiene | C1=C=CCCCCCCC1 | C10H16
catalyst | Pd on charcoal | [Pd] | Pd
product | trans-cyclodecene | 17-32% | C/1=C\CCCCCCCC1 | C10H18
